US07553969B1
(4) Synthesis of 5-(1-(3-methyl-2-methylaminobutyrylamino)-2-(3-tert-butyl-4-hydroxylphenyl)ethyl)imidazolidine-2,4-dione
To a solution of 5-(1-(2-(benzyloxycarbonyl-N-methylamino)-3-methylbutyrylamino)-2-(3-tert-butyl-4-hydroxylphenyl)ethyl)imidazolidine-2,4-dione (363 mg, 0.675 mmol) in methanol (10 ml), 10% palladium carbon (50 mg) was added and stirred at room temperature in a hydrogen atmosphere overnight. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to give the titled compound (261 mg, 96%).

reactant | 5-(1-(2-(benzyloxycarbonyl-N-methylamino)-3-methylbutyrylamino)-2-(3-tert-butyl-4-hydroxylphenyl)ethyl)imidazolidine-2,4-dione | 0.675 mmol, 363 mg | C(C1=CC=CC=C1)OC(=O)N(C)C(C(=O)NC(CC1=CC(=C(C=C1)O)C(C)(C)C)C1C(NC(N1)=O)=O)C(C)C | C29H38N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium carbon | 50 mg | [C].[Pd]
product | 5-(1-(3-methyl-2-methylaminobutyrylamino)-2-(3-tert-butyl-4-hydroxylphenyl)ethyl)imidazolidine-2,4-dione | 261 mg, 96% | CC(C(C(=O)NC(CC1=CC(=C(C=C1)O)C(C)(C)C)C1C(NC(N1)=O)=O)NC)C | C21H32N4O4
